Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
PMS2 mutation (Lynch syndrome)
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral salpingoophorectomy, 
cystoscopy

 
History of Present Illness:
___ year old
postmenopausal G3P___ with a family history of ovarian cancer 
in
her mother who has recently been diagnosed with a PMS2 mutation
conveying a diagnosis of Lynch syndrome. She has no personal
history of breast, ovarian, or GI cancer, but has had basal cell
cancer. 

Today she reports being anxious about the diagnosis and eager to
put prophylactic surgery behind her. She has a friend with
recurrent ovarian cancer, and that experience has been emotional
for her. Her only symptom is intermittent left lower quadrant
tenderness, which she notices almost exclusively while lying 
flat
in bed at night with a full bladder. It does not cause
significant discomfort throughout the day and does not interfere
with her activities. No constipation or dysuria. She also denies
fevers, chills, early satiety, bloating, frequency, dyspareunia,
vaginal bleeding or discharge. 

Of note, she had a PUS in ___ that initially showed a stable 
3
cm simple appearing left ovarian cyst as well as a 1.5 cm right
complex cystic lesion with internal low-level echoes consistent
with an endometrioma. On follow-up ultrasound on ___, showed
an anteverted uterus measuring 7.6 cm x 3.9 cm x 4.9 cm with a 4
mm endometrial stripe. The previous simple appearing left 
ovarian
cyst and right complex cystic lesion with low-level internal
echoes were both stable in size and appearance. There was no 
free
fluid.

Review of systems: She denies recent weight changes, chest pain,
shortness of breath, abnormal discharge, nausea, vomiting,
changes in bowel or bladder habits. Otherwise 10 point review of
systems is negative except as above.

 
Past Medical History:
Past Medical History: 
- Hypertension
- Hemorrhoids
- Acne
- Migraine headaches
- Basal cell carcinoma 
- Lynch Syndrome 
- Denies history  of respiratory disease, thromboembolic disease

Past Surgical History:
- Knee surgery
- Wisdom tooth extraction 
Denies anesthesia complications.

Healthcare Maintenance/Screning:
Last mammogram: ___
Last colonoscopy: ___ 
Last bone density scan:   n/a 

Obstetric History: G3P2012
- SAB x 1
- Uncomplicated SVD x 2

Gynecologic History:
LMP: age ___
Dysmenorrhea: reports significant history of pelvic pain during
menses, improved with OCP use 
Fibroids: none
Cysts: see HPI 
STIs: denies
Sexually active: yes, with husband who has vasectomy 
Contraception: n/a
Last pap: ___ NILM, HPV negative. Remote h/o abnormal pap 
in
___ treated with cryotherapy 
HRT: denies

 
Social History:
___
Family History:
- mother, deceased in ___ from ovarian cancer in her ___
- Paternal grandfather with lymphoma
- ___ history of breast, uterine, colon, or pancreatic
cancers; denies history of bleeding or clotting diatheses 
 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
Vitals:  Vital Signs sheet entries for ___: 
BP: 139/93. Heart Rate: 107. Weight: 175.5 (With Clothes).
Height: 66.5. BMI: 27.9.   
GENERAL:  No acute distress, well developed, well nourished,
appears stated age.
HEENT: NC/AT
EYES: sclera anicteric
SKIN:  Warm and dry.
NEURO/PSYCH:  Alert and oriented x 4.
NECK: Supple no masses, thyroid normal position and size without
nodules 
LYMPHATICS:  No palpable supraclavicular, cervical, or
inguinofemoral lymphadenopathy.
RESPIRATORY:  Lungs clear to auscultation bilaterally.
CARDIOVASCULAR:  Heart regular rate and rhythm.
MUSCULOSKELETAL: No spinal or cva tenderness.
GASTROINTESTINAL:  normal bowel sounds, abdomen soft, nontender,
nondistended, without palpable masses
EXTREMITIES:  Nontender, no edema bilaterally.
GENITOURINARY: deferred

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================
On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, and cystoscopy. Please see the operative 
report for full details.  

Her post-operative course is detailed as follows. On 
post-operative day 0, her diet was advanced without difficulty 
and her pain managed with PO tramadol/acetaminophen/ibuprofen. 
Her urine output was adequate so her Foley catheter was removed 
and she voided spontaneously. She was continued on her home 
medications.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
1.  amLODIPine 5 mg PO DAILY  
2.  Citalopram 20 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6h prn Disp 
#*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth q6h prn Disp #*60 
Tablet Refills:*0 
4.  TraMADol 50 mg PO Q4H:PRN Pain - Severe 
RX *tramadol 50 mg 1 tablet(s) by mouth q4h prn Disp #*5 Tablet 
Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lynch syndrome

 
Discharge Condition:
Alert, ambulatory, coherent

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___